US08466114B2
A solution of 2-isopropyl benzaldehyde (1.5 g, 10.13 mmole) in DCM (10 mL) was added to a solution of AlCl3 (2.6 g, 20.26 mmole) in DCM (10 mL) at 0° C. followed by addition of a dilute solution of Br2 (0.67 mL, 13.1 mmole in 20 mL DCM) to the reaction mixture. The solution was stirred at 0° C. for 6 hours then stirred overnight at room temperature. The reaction mixture was basified using saturated aqueous sodium bicarbonate and extracted with DCM (30×2 mL). The organic layers were combined and the crude product was obtained by evaporation of the solvent. The crude product was purified by column chromatography using 1% EtOAc in Hexane to yield 5-bromo-2-isopropylbenzaldehyde (800 mg).

reactant | 2-isopropyl benzaldehyde | 10.13 mmole, 1.5 g | C(C)(C)C1=C(C=O)C=CC=C1 | C10H12O
reactant | AlCl3 | 20.26 mmole, 2.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Br2 | 13.1 mmole, 0.67 mL | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-isopropylbenzaldehyde | 800 mg | BrC=1C=CC(=C(C=O)C1)C(C)C | C10H11BrO
